US07504495B2
1,4-Bis(4-methyl-phenylamino)-6-carboxy-anthraquinone (17)
1,4-Dihydroxy-2,3-dihydro-6-carboxy-anthraquinone (300 mg) Boric acid (300 mg) and p-Toluidine (1.8 g) is mixed in n-pentanol (5 mL) and heated to 110° C. for 4 hours, the mixture is co-evaporated with 2×50 ml of water. The residue is redissolved in dichloromethane/THF (1/1) 200 ml washed with water (3×100 mL) dried (Na2SO4), filtered and concentrated. The residue is purified on a silicagel column (CH2Cl2/MeOH/NEt3; 90/9/1) resulting in 350 mg of pure material. MALDI-MS: m/z 463.2 (M+H)

reactant | 1,4-Dihydroxy-2,3-dihydro-6-carboxy-anthraquinone | 300 mg | OC=1CCC(=C2C(C3=CC(=CC=C3C(C12)=O)C(=O)O)=O)O | C15H10O6
reactant | p-Toluidine | 1.8 g | NC1=CC=C(C=C1)C | C7H9N
reactant | water | 50 ml | O | H2O
solvent | n-pentanol | 5 mL | C(CCCC)O | C5H12O
solvent | dichloromethane THF | 200 ml | ClCCl.C1CCOC1
product | 1,4-Bis(4-methyl-phenylamino)-6-carboxy-anthraquinone | 350 mg | CC1=CC=C(C=C1)NC1=CC=C(C=2C(C3=CC(=CC=C3C(C12)=O)C(=O)O)=O)NC1=CC=C(C=C1)C | C29H22N2O4
